US04440802
EPOXIDE RESIN D
Adipic acid (73 g) is added in portions with stirring to N,N'-diglycidyl-5,5-dimethylhydantoin (8.04 epoxide equiv./kg, 200 g) containing N-phenylimidazole (0.4 g), the temperature is kept at 100° C. and the addition is carried out over 40 minutes. The heating is maintained at 100° C. for a further 41/3 hours by which time the epoxide content has fallen to 2.35 equiv./kg.

reactant | Adipic acid | 73 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | N,N'-diglycidyl-5,5-dimethylhydantoin | C(C1CO1)N1C(=O)N(C(=O)C1(C)C)CC1CO1 | C11H16N2O4
reactant | N-phenylimidazole | 0.4 g | C1(=CC=CC=C1)N1C=NC=C1 | C9H8N2
product | EPOXIDE RESIN | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
